US07713994B2
3-Aminomethyl-4-furan-3-yl-phenol
The 2-Furan-3-yl-5-hydroxy-benzonitrile obtained above is dissolved in EtOH and to which Raney Ni (1 g of suspension in water) is added. The mixture is then subjected to hydrogenation under H2 (50 psi) for 24 hours. After which Raney Ni is filtered off from celite and EtOH is removed to provide the title compound (40 mg, 72% for two steps). MS (ESI): 190 (M+1)+1, 173 (M+1-NH3)+1.

reactant | 2-Furan-3-yl-5-hydroxy-benzonitrile | O1C=C(C=C1)C1=C(C#N)C=C(C=C1)O | C11H7NO2
solvent | EtOH | CCO | C2H6O
catalyst | Ni | 1 g | [Ni] | Ni
product | 3-Aminomethyl-4-furan-3-yl-phenol | 40 mg, 72% | NCC=1C=C(C=CC1C1=COC=C1)O | C11H11NO2
